US06436964B1
Preparation of 4-(Benzo[b]thiophene-7-yl)-1,2,3,6-tetrahydropyridine
Dissolve N-carbethoxy-4-(benzo[b]thiophene-7-yl)-1,2,3,6-tetrahydropyridine (105 mg, 0.3652mmol) in 1 mL ethylene glycol and add potassium hydroxide (102 mg, 1.826 mmol) dissolved in 1 mL of water. The reaction mixture is heated at reflux for 8 hours and then cooled to room temperature. It is then diluted with 5 mL water and extracted with ethyl acetate (3×5 mL), dried over anhydrous magnesium sulfate, filtered and concentrated under vacuum. The reside is purified over silica gel to provide the title compound as a yellow oil (51 mg), MS(ion spray)=216.3 (M+1).

reactant | N-carbethoxy-4-(benzo[b]thiophene-7-yl)-1,2,3,6-tetrahydropyridine | 0.3652mmol, 105 mg | C(=O)(OCC)N1CCC(=CC1)C1=CC=CC2=C1SC=C2 | C16H17NO2S
reactant | potassium hydroxide | 1.826 mmol, 102 mg | [OH-].[K+]
solvent | ethylene glycol | 1 mL | C(CO)O | C2H6O2
solvent | water | 1 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | 4-(Benzo[b]thiophene-7-yl)-1,2,3,6-tetrahydropyridine | 51 mg | S1C2=C(C=C1)C=CC=C2C=2CCNCC2 | C13H13NS
